US04800203
3,7-Dichloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one
To a solution containing 7-chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one (3.0 g) and a catalytic amount of dibenzoyl peroxide in 50 ml of THF was added portionwise N-chlorosuccinimide (1.74 g) over 15 min. The flask was covered with aluminum foil and the solution stirred at room temperature for 24 hrs. The solution was then concentrated and the residue purified by HPLC (silica, dichloromethane) to give 2.43 g of a yellow powder. This powder was recrystallized from ethanol to give 2.23 g of pale yellow crystals, mp 129°-131°.

reactant | 7-chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 3.0 g | ClC=1C=CC=2C(C=3N(N(C2C1)C)C=CC3)=O | C12H9ClN2O
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-chlorosuccinimide | 1.74 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | aluminum | [Al] | Al
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3,7-Dichloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 2.43 g | ClC1=CC=C2N1N(C=1C=C(C=CC1C2=O)Cl)C | C12H8Cl2N2O
